US03963706
c. 1-Phenyl-3-(2-chloro-4-sulphamoylphenyl)-imidazolidine-4-one
2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide (34.0g) was dissolved in ethanol (300 ml) and paraformaldehyde (6.0g) in water (600 ml) added. The mixture was refluxed 4 hours, cooled and worked up as in Example 2(c) to yield 20 g m.p. 206°

reactant | 2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 34.0g | C1(=CC=CC=C1)NCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C14H14ClN3O3S
reactant | paraformaldehyde | 6.0g | C=O | CH2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
product | 1-Phenyl-3-(2-chloro-4-sulphamoylphenyl)-imidazolidine-4-one | C1(=CC=CC=C1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)Cl | C15H14ClN3O3S
